US06927292B2
B. (8R,9R)-10-Acetyl-2,3-dimethyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h]-[1,7]naphthyridin-7-one
175 g of (8R,9R)-2,3-dimethyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one are dissolved in 2200 ml of toluene under argon and with exclusion of moisture with mechanical stirring. Half the amount of acetyl chloride (130 ml in total) is then added dropwise with ice cooling in the course of 30 min. After removing the ice bath, half the amount of triethylamine (250 ml in total) is then added dropwise at 10° C. in the course of 40 min (warming to 30° C.). After 15 min at this temperature, the procedure is repeated as described with the second half of the reagents indicated. The mixture is then added to 1 l of ice water with stirring. The organic phase is separated off and the aqueous phase is extracted with ethyl acetate (2×200 ml). The combined organic phases are washed with water (3×400 ml), dried over sodium sulfate and evaporated. The yellow-brown residue is crystallized using 300 ml of tert-butyl methyl ether. After stirring in the cold for 1 h, it is filtered off, washed with 200 ml of tert-butyl methyl ether and the filter residue is dried to constant weight in a vacuum drying oven. 186 g (95%) of the title compound are isolated as a yellowish solid of m.p. 168-170° C.

reactant | (8R,9R)-2,3-dimethyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one | 175 g | CC=1N=C2N(C=CC=3C([C@@H]([C@H](NC23)C2=CC=CC=C2)OC(C(C)(C)C)=O)=O)C1C | C23H25N3O3
reactant | acetyl chloride | 130 ml | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 2200 ml | C1(=CC=CC=C1)C | C7H8
product | (8R,9R)-10-Acetyl-2,3-dimethyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h]-[1,7]naphthyridin-7-one | 186 g, 95% | C(C)(=O)N1[C@@H]([C@H](C(C=2C=CN3C(C12)=NC(=C3C)C)=O)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C25H27N3O4
